US06613921B2
A mixture of 10-(trimethylsilyl)ethynyl-5H-dibenzo[a,d]cycloheptene (5.57 g, 0.020 mol), triethyl amine(3.89 g, 0.039 mol), water (3.45 g, 0.385 mol), tristriphenyl phosphine rhodium chloride (0.178 g, 0.002 mol) and triphenyl phosphine (2.52 g, 0.010 mol) in 70 ml of THF was pressurized in a Parr reactor with carbon monoxide to 800 psi (690 kPa) and stirred and heated to 160C for 10 hr. The product, 1,8-dihydro-3-hydoxy-dibenzo[e,h]azulene, was isolated by concentrating the reaction and chromatography of the residue over silica gel with methlyene chloride as eluant to give 3.39 g of yellow oil.

reactant | 10-(trimethylsilyl)ethynyl-5H-dibenzo[a,d]cycloheptene | 0.020 mol, 5.57 g | C[Si](C)(C)C#CC1=CC2=C(CC3=C1C=CC=C3)C=CC=C2 | C20H20Si
reactant | triethyl amine | 0.039 mol, 3.89 g | C(C)N(CC)CC | C6H15N
reactant | water | 0.385 mol, 3.45 g | O | H2O
reactant | triphenyl phosphine | 0.010 mol, 2.52 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon monoxide | [C]=O | CO
solvent | THF | 70 ml | C1CCOC1 | C4H8O
product | 1,8-dihydro-3-hydoxy-dibenzo[e,h]azulene | OC1=CCC=2C3=C(CC4=C(C12)C=CC=C4)C=CC=C3 | C18H14O
